US07250410B2
1-ethyl-7,8-dihydroxy-5-phenyl-1,3-dihydro-2H-1,4-benzodiazepin-2-one, IIbk.
Add dropwise at 0° C. under an inert atmosphere, 0.68 ml of a 1 M solution of BBr3 (0.68 mmol) in CH2Cl2 on 200 mg (0.62 mmol) of 7,8-diethoxy-1-ethyl-5-phenyl-1,3-dihydro-2H-1,4-benzodiazepin-2-one (IIbg) in 5 ml of dichloromethane. Stir at room temperature for 12 hours. Quench at 0° C. with methanol. Evaporate to dryness. Triturate again and evaporate. Purify by chromatography (AcOEt). Recrystallize in EtO2/pentane. One obtains 30 mg of the abovenamed product as a yellow powder. Yield: 16%. M: 230–231° C. 1H-NMR (DMSO, 200 MHz): d 0.96 (t, 3H, CH3), 3.80 (AB system, ? d=0.54, JAB=13.7, 2H, —NCH2), 4.05 (AB system, ? d=0.72, JAB=10.0, 2H, CH2), 6.52 (s, 1H Ar), 6.91 (s, 1H Ar), 7.42–7.55 (m, 5H Ar), 9–10.5 (hump, 2H, 2×—OH).

reactant | BBr3 | 0.68 mmol | B(Br)(Br)Br | BBr3
reactant | 7,8-diethoxy-1-ethyl-5-phenyl-1,3-dihydro-2H-1,4-benzodiazepin-2-one | 0.62 mmol, 200 mg | C(C)OC=1C(=CC2=C(C(=NCC(N2CC)=O)C2=CC=CC=C2)C1)OCC | C21H24N2O3
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 1-ethyl-7,8-dihydroxy-5-phenyl-1,3-dihydro-2H-1,4-benzodiazepin-2-one | 30 mg, Yield: 16% | C(C)N1C(CN=C(C2=C1C=C(C(=C2)O)O)C2=CC=CC=C2)=O | C17H16N2O3
